### PR TITLE
feat: shuffles, permuted lists and other prerequisites for combinatorics

### PR DESCRIPTION
**Pull request by SashaIr**
This is the first PR in a series of 22 PRs porting the [Coq-Combi](https://github.com/math-comp/Coq-Combi) library to Mathlib.

This PR contains prerequisites for the subsequent port, mainly lemmas about lists, and does not yet include the main Coq-Combi development.

The intended final state of the port is available in my [`coq-combi` branch](https://github.com/SashaIr/mathlib4/tree/coq-combi). The subsequent PRs will progressively introduce the remaining parts of the port.

[#mathlib4 > Porting of Coq-Combi @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Porting.20of.20Coq-Combi/near/623777612)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Basic.lean [hunk 1]
```diff
@@ -1191,4 +1191,81 @@ lemma left_le_of_mem_range' {a b s x : ℕ} (hx : x ∈ List.range' a b s) : a 
 
 end range'
 
+/-! ### Lists split into three pieces -/
+
+section AppendMid
+
+variable (p m s : List α) {i j : ℕ}
+
+theorem length_append_mid : (p ++ m ++ s).length = p.length + m.length + s.length := by
```
Comment (SnirBroshi) [inline Mathlib/Data/List/Basic.lean:1200]:
```suggestion
theorem length_append_append : (p ++ m ++ s).length = p.length + m.length + s.length := by
```
and similarly below

File: Mathlib/Data/List/Basic.lean [hunk 2]
```diff
@@ -1191,4 +1191,81 @@ lemma left_le_of_mem_range' {a b s x : ℕ} (hx : x ∈ List.range' a b s) : a 
...
+  simp [Nat.add_assoc]
+
+theorem getElem_mid_left (hi : i < p.length) :
+    (p ++ m ++ s)[i]'(by simp; omega) = p[i] := by
```
Comment (SnirBroshi) [inline Mathlib/Data/List/Basic.lean:1204]:
```suggestion
    (p ++ m ++ s)[i]'(by simp; lia) = p[i] := by
```
or even
```suggestion
    (p ++ m ++ s)[i]'(by grind) = p[i] := by
```
might work. `omega` is essentially deprecated.

File: Mathlib/Data/List/Flatten.lean [hunk 3]
```diff
@@ -72,4 +72,17 @@ theorem getLast_flatten_eq_getLast_getLast {l : List (List α)}
     l.flatten.getLast hl = (l.getLast (by grind)).getLast hl' :=
   (getLast_getLast_eq_getLast_flatten ..).symm
 
+
+/-- The list of the heads of a list of lists is a sublist of its flattening. -/
+theorem filterMap_head?_sublist_flatten (L : List (List α)) :
+    (L.filterMap head?).Sublist L.flatten := by
```
Comment (SnirBroshi) [inline Mathlib/Data/List/Flatten.lean:78]:
```suggestion
theorem filterMap_head?_sublist_flatten (L : List (List α)) :
    L.filterMap head? <+ L.flatten := by
```

**Review by eric-wieser — CHANGES_REQUESTED** [review]
As discussed on Zulip, this currently appears to violate the license terms of Coq-combi, as this PR is essentially relicensing derived  GPLed code as Apache.

**Comment by eric-wieser** [comment]
On reflection, I think it is best to close this entirely; otherwise revewers will see this and will have to be careful not to write derived code themselves.
